US06448248B1
2-(6-Methylpyridazin-3-yloxy)-3-methoxy-3,3-diphenylpropionic acid (I-517)
1.3 g (4.8 mmol) of 2-hydroxy-3-methoxy-3,3-diphenylpropionic acid dissolved in DMF were added dropwise to a suspension of 0.43 g of NaH (14.3 mmol, 80% in white oil) in 10 ml of DMF. After stirring to room temperature for 30 minutes, the mixture was treated with 0.6 g (4.8 mmol) of 3-chloro-6-methylpyridazine in 10 ml of DMF and stirred overnight at room temperature. To complete the reaction, 0.6 g (4.8 mmol) of 3-chloro-6-methylpyridazine were then added again and the mixture was kept at 60° C. for 5 hours. It was poured onto ice water, extracted three times with ethyl acetate, the aqueous phase was brought to pH 2 with half-concentrated hydrochloric acid and the precipitate which was deposited was extracted with ethyl acetate. These ethyl acetate phases were dried with magnesium sulfate and then filtered and the solvent was stripped off under reduced pressure. 800 mg of the brown residue (1.19 g) were purified by means of MPLC, it being possible to isolate 199 mg of the desired product as a white solid.

reactant | 2-hydroxy-3-methoxy-3,3-diphenylpropionic acid | 4.8 mmol, 1.3 g | OC(C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)OC | C16H16O4
reactant | NaH | 14.3 mmol, 0.43 g | [H-].[Na+]
reactant | 3-chloro-6-methylpyridazine | 4.8 mmol, 0.6 g | ClC=1N=NC(=CC1)C | C5H5ClN2
reactant | 3-chloro-6-methylpyridazine | 4.8 mmol, 0.6 g | ClC=1N=NC(=CC1)C | C5H5ClN2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(6-Methylpyridazin-3-yloxy)-3-methoxy-3,3-diphenylpropionic acid | 199 mg | CC1=CC=C(N=N1)OC(C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)OC | C21H20N2O4
